US07678528B2
Synthesis of bis[4-acetyloxyphenyl]phenylsulfonium perfluorobutanesulfonate
Bis[4-hydroxylphenyl]phenysulfonium perfluorobutanesulfonate (10 g) and acetone were placed into a reaction vessel equipped with an agitator, a thermometer, a reflux condenser, and a tube for introducing nitrogen gas into the vessel. Under a nitrogen blanket, 4.6 g of potassium carbonate was added to the reaction vessel and the mixture was stirred for an hour. Acetic anhydride 3.43 gram was added and stirred overnight at room temperature. Dichloromethane (150 ml) and water were added to the reaction vessel and the mixture was stirred for 2 hours. The mixture was then placed into a separatory funnel and the organic (dichloromethane) layer was retained. The dichloromethane layer was washed several times with water, dried over anhydrous sodium sulfate, filtered, and the remaining volatile materials were evaporated to leave an oil. Ether was added to the oil and the mixture was stirred vigorously. A very sticky solid was obtained.

reactant | Bis[4-hydroxylphenyl]phenysulfonium perfluorobutanesulfonate | 10 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F.OC1=CC=C(C=C1)[S+](C1=CC=CC=C1)C1=CC=C(C=C1)O
reactant | acetone | CC(=O)C | C3H6O
reactant | potassium carbonate | 4.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | Acetic anhydride | 3.43 gram | C(C)(=O)OC(C)=O | C4H6O3
solvent | Ether | CCOCC | C4H10O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | Dichloromethane | 150 ml | ClCCl | CH2Cl2
product | bis[4-acetyloxyphenyl]phenylsulfonium perfluorobutanesulfonate | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F.C(C)(=O)OC1=CC=C(C=C1)[S+](C1=CC=CC=C1)C1=CC=C(C=C1)OC(C)=O | InChI=1S/C22H19O4S.C4HF9O3S/c1-16(23)25-18-8-12-21(13-9-18)27(20-6-4-3-5-7-20)22-14-10-19(11-15-22)26-17(2)24;5-1(6,3(9,10)11)2(7,8)4(12,13)17(14,15)16/h3-15H,1-2H3;(H,14,15,16)/q+1;/p-1
